US08389208B2
Standard Curves for Adenylate Kinase Enzyme
Standard curves for the AK enzyme was prepared as follows. Serial dilutions of purified Sulfolobus acidocaldarius AK from 10 microgrammes/ml to 1 fg/ml were prepared in 50 mM Tris, 25 mM MESNA, pH 7.3. 100 microlitres of enzyme was added to each well of a microtitre plate and 100 microlitres of 135 micromolar ADP 15 mM MgAc, 1 mM EDTA added to each well. Three separate standard curves were prepared for incubation of the assay plate at 30 degrees C., 50 degrees C. and 70 degrees C. for 20 minutes. Following incubation 30 microlitres of luciferin/luciferase reagent (Biothema) was added and the signal read in a luminometer (Orion, Berthold) and the results shown in FIG. 3.

reactant | MESNA | 25 mM | C(CS(=O)(=O)[O-])S.[Na+]
reactant | ADP | 135 micromolar, 100 microlitres | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H15N5O10P2
reactant | EDTA | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | luciferin | 30 microlitres | C1[C@@H](N/C(=C/2\N=C3C=CC(=O)C=C3S2)/S1)C(=O)O | C11H8N2O3S2
solvent | Tris | 50 mM | C(C(CO)(CO)N)O | C4H11NO3
product | Adenylate | C1=NC2=C(C(=N1)N)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)O)O)O | C10H14N5O7P
